US07504513B2
In a similar manner as described for Example 26, 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester (40 mg, 0.1 mmol) and N-methylindole-5-boronic acid (26.2 mg, 0.15 mmol) gave 2-(5,6-Dimethoxy-benzoimidazol-1-yl)-4-(1-methyl-1H-indol-5-yl)-thiazole-5-carboxylic acid (5.1 mg, 12%) as a white solid. MS 435 m/z (M+1).

reactant | 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester | 0.1 mmol, 40 mg | COC(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C(=C2)OC)OC)Br | C14H12BrN3O4S
reactant | N-methylindole-5-boronic acid | 0.15 mmol, 26.2 mg | CN1C=CC2=CC(=CC=C12)B(O)O | C9H10BNO2
product | 2-(5,6-Dimethoxy-benzoimidazol-1-yl)-4-(1-methyl-1H-indol-5-yl)-thiazole-5-carboxylic acid | 5.1 mg, 12% | COC1=CC2=C(N(C=N2)C=2SC(=C(N2)C=2C=C3C=CN(C3=CC2)C)C(=O)O)C=C1OC | C22H18N4O4S
